US06525042B1
Methyl 4-(2-aminothiazol-4-yl)benzoate
At room temperature, methyl 4-bromoacetylbenzoate (1.00 g) and thiourea (296 mg) were dissolved in isopropanol (100 ml), followed by heating under reflux for 15 minutes. Under stirring at the same temperature, anhydrous sodium carbonate (206 mg) was added to the reaction mixture. The resulting mixture was heated under reflux for 20 minutes. After completion of the reaction, water (50 ml) was added under ice cooling and the solid so precipitated was collected by filtration. The solid was dissolved in water and dichloromethane. The organic layer so separated was dried over anhydrous sodium sulfate. The solvent was then distilled off. The pale yellow solid so precipitated was washed with ether, whereby the title compound (634 mg, 70%) was obtained.

reactant | methyl 4-bromoacetylbenzoate | 1.00 g | BrCC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H9BrO3
reactant | thiourea | 296 mg | NC(=S)N | CH4N2S
reactant | sodium carbonate | 206 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 50 ml | O | H2O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | Methyl 4-(2-aminothiazol-4-yl)benzoate | NC=1SC=C(N1)C1=CC=C(C(=O)OC)C=C1 | C11H10N2O2S
